US06326510B1
(c) 3-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acryloyl chloride
A solution of 2.6 g (10 mmol) of 3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acrylic acid in 50 ml of anhydrous dichloromethane is introduced into a round-bottomed flask, 2 ml (10 mmol) of dicyclohexylamine are added and the mixture is stirred for one hour. 800 μl (10 mmol) of thionyl chloride are then added and the mixture is stirred for one hour. The mixture is evaporated to dryness, the residue is taken up in anhydrous ethyl ether, the dicyclohexylamine salt is filtered off and the filtrate is evaporated. 2.8 g (100%) of the crude acid chloride are collected, which product will be used subsequently without further purification.

reactant | 3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acrylic acid | 10 mmol, 2.6 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=CC(=O)O)C | C17H22O2
reactant | dicyclohexylamine | 10 mmol, 2 ml | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | thionyl chloride | 10 mmol, 800 μl | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acryloyl chloride | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=CC(=O)Cl)C | C17H21ClO
